US05804593
Preparation of 2(R)-[(4-bromobenzenesulfonyl)amino]-3-(3-indolyl)-propanoic acid methyl ester
To 1 g (3.9 mmol) of D-tryptophan methyl ester hydrochloride in 12 mL of pyridine at ambient temperature is added 1 g (3.9 mmol) of 4-bromobenzene sulfonyl chloride. The yellow mixture is allowed to stir overnight. It is then poured into aqueous 10% HCl and extracted with several portions of ethyl acetate. The combined organic phases are washed with aqueous 10% HCl, water, and brine, and dried over sodium sulfate. The solution is decolorized with activated charcoal, and concentrated to 1.1 g (65%) of a white solid.

reactant | D-tryptophan methyl ester hydrochloride | 3.9 mmol, 1 g | Cl.COC([C@H](N)CC1=CNC2=CC=CC=C12)=O
reactant | 4-bromobenzene sulfonyl chloride | 3.9 mmol, 1 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | HCl | Cl | ClH
solvent | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
product | 2(R)-[(4-bromobenzenesulfonyl)amino]-3-(3-indolyl)-propanoic acid methyl ester | COC([C@@H](CC1=CNC2=CC=CC=C12)NS(=O)(=O)C1=CC=C(C=C1)Br)=O | C18H17BrN2O4S
